US04929784
Example 1 (benzyltoluene)
3.170 ml of toluene and 10.5 g of bleaching earth (Tonsil K 10 from Sudchemie AG) were heated to boiling in a stirring vessel with a distillation passage, condenser and water separator. 216 g of benzyl alcohol were then passed in through a jet in the course of about 2 hours, i.e. benzyl alcohol was added dropwise under a flow of nitrogen (100 1/h) via an immersed thin tube and in this way was rapidly and uniformly distributed and made to react.

reactant | toluene | 3.170 ml | C1(=CC=CC=C1)C | C7H8
reactant | benzyl alcohol | 216 g | C(C1=CC=CC=C1)O | C7H8O
solvent | water | O | H2O
product | benzyltoluene | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
